US06020379
C. 4-Fluoro-2-Toluidinylbromide
Bromine (0.5 mole) is added over 1 hour to stirred 4-fluoro-2-toluidine (0.5 mole) at 100° C. illuminated with a high wattage lamp. The crude benzyl bromide is used as prepared.

reactant | Bromine | 0.5 mole | BrBr | Br2
reactant | 4-fluoro-2-toluidine | 0.5 mole | FC=1C=C(C(N)=CC1)C | C7H8FN
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 4-Fluoro-2-Toluidinylbromide | FC=1C=C(C(NBr)=CC1)C | C7H7BrFN
